*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_0 1 2 3 4 REF
C_C1 1 REF 0.6162951273905pf
C_C2 1 2 13.418218721095pf
C_C3 1 3 0.0193286033935pf
C_C4 1 4 0.1824638402327pf
C_C5 2 REF 1.6568257048114pf
C_C6 2 3 0.0962968172999pf
C_C7 3 REF 0.3537981793349pf
C_C8 3 4 7.299832165988pf
C_C9 4 REF 0.359022763585pf
L_L1 3 5 1.3100286600229nh
R_RL1 5 4 -1.119112871e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_1 1 2 3 4 REF
C_C1 1 REF 0.4670440083264pf
C_C2 1 2 13.665001707352pf
C_C3 1 3 0.0185726650675pf
C_C4 1 4 0.1839162305631pf
C_C5 2 REF 1.3210023590783pf
C_C6 2 3 0.0967913092357pf
C_C7 3 REF 0.3541005497016pf
C_C8 3 4 5.4219871147069pf
C_C9 4 REF 0.357992983457pf
R_R1 1 2 843.2020787057
L_L1 3 5 1.3115698557022nh
R_RL1 5 4 3.8116154428e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_2 1 2 3 4 REF
C_C1 1 REF 0.3740835343067pf
C_C2 1 2 13.912649609875pf
C_C3 1 3 0.017766612639pf
C_C4 1 4 0.1860827200346pf
C_C5 2 REF 1.0806949629561pf
C_C6 2 3 0.0973238789326pf
C_C7 3 REF 0.3544100115304pf
C_C8 3 4 4.1102418086797pf
C_C9 4 REF 0.3569163024241pf
R_R1 1 2 840.05579391247
L_L1 3 5 1.3128537952205nh
R_RL1 5 4 2.3826939696e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_3 1 2 3 4 REF
C_C1 1 REF 0.3067375193228pf
C_C2 1 2 14.243397216526pf
C_C3 1 3 0.0166903149776pf
C_C4 1 4 0.1896519438821pf
C_C5 2 REF 0.8728103812196pf
C_C6 2 3 0.098062343499pf
C_C7 3 REF 0.3547882046784pf
C_C8 3 4 2.9809531635898pf
C_C9 4 REF 0.3556182333577pf
R_R1 1 2 869.26733161553
L_L1 3 5 1.314154040427nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_4 1 2 3 4 REF
C_C1 1 REF 0.2655583831192pf
C_C2 1 2 14.678219293871pf
C_C3 1 3 0.0153166300582pf
C_C4 1 4 0.1948568348145pf
C_C5 2 REF 0.7088672433755pf
C_C6 2 3 0.0990562506884pf
C_C7 3 REF 0.3552119569057pf
C_C8 3 4 2.0753207645557pf
C_C9 4 REF 0.354242358447pf
R_R1 1 2 946.56508728276
L_L1 3 5 1.3154532180405nh
R_RL1 5 4 -1.01840202e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_5 1 2 3 4 REF
C_C1 1 REF 0.2487548889715pf
C_C2 1 2 15.167291291995pf
C_C3 1 3 0.0138235639946pf
C_C4 1 4 0.2009697319663pf
C_C5 2 REF 0.6047987877941pf
C_C6 2 3 0.1001987075334pf
C_C7 3 REF 0.3556039198065pf
C_C8 3 4 1.4755186447394pf
C_C9 4 REF 0.3531086538816pf
L_L1 3 5 1.316502915533nh
R_RL1 5 4 -2.589779228e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_6 1 2 3 4 REF
C_C1 1 REF 0.2447029648919pf
C_C2 1 2 15.715428475078pf
C_C3 1 3 0.0121883688003pf
C_C4 1 4 0.2078863469676pf
C_C5 2 REF 0.5380017040367pf
C_C6 2 3 0.1015100633737pf
C_C7 3 REF 0.3559678310147pf
C_C8 3 4 1.0642166576961pf
C_C9 4 REF 0.3522270374427pf
L_L1 3 5 1.3173652741764nh
R_RL1 5 4 -3.939463506e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_7 1 2 3 4 REF
C_C1 1 REF 0.2480144094667pf
C_C2 1 2 16.438629151589pf
C_C3 1 3 0.0100558297507pf
C_C4 1 4 0.2169613737366pf
C_C5 2 REF 0.4899707282914pf
C_C6 2 3 0.1032952561035pf
C_C7 3 REF 0.3563614370111pf
C_C8 3 4 0.7355263655604pf
C_C9 4 REF 0.3514982156939pf
L_L1 3 5 1.3181786345522nh
R_RL1 5 4 -5.219531377e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_8 1 2 3 4 REF
C_C1 1 REF 0.2558093332268pf
C_C2 1 2 17.367942522704pf
C_C3 1 4 0.2284700059866pf
C_C4 2 REF 0.4590583724655pf
C_C5 2 3 0.1056806473724pf
C_C6 3 REF 0.3567663558083pf
C_C7 3 4 0.4818916990876pf
C_C8 4 REF 0.3509896412097pf
L_L1 3 5 1.3189462377469nh
R_RL1 5 4 -6.362916336e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_9 1 2 3 4 REF
C_C1 1 REF 0.2652018339806pf
C_C2 1 2 18.569825366882pf
C_C3 1 4 0.2430822450853pf
C_C4 2 REF 0.4440271130806pf
C_C5 2 3 0.1089232066809pf
C_C6 3 REF 0.3571534971195pf
C_C7 3 4 0.2943563119764pf
C_C8 4 REF 0.3507392791497pf
L_L1 3 5 1.319627750498nh
R_RL1 5 4 -7.209426451e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_10 1 2 3 4 REF
C_C1 1 REF 0.272974312107pf
C_C2 1 2 20.104545897873pf
C_C3 1 4 0.2613652296262pf
C_C4 2 REF 0.4426396038494pf
C_C5 2 3 0.1132933292265pf
C_C6 3 REF 0.3574772801721pf
C_C7 3 4 0.1579855588755pf
C_C8 4 REF 0.3507200753728pf
L_L1 1 5 94.818633657838nh
R_RL1 5 2 13.823062769644
L_L2 3 6 1.3202327101279nh
R_RL2 6 4 -7.678084646e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_11 1 2 3 4 REF
C_C1 1 REF 0.2758314920314pf
C_C2 1 2 22.103277125183pf
C_C3 1 4 0.2846446003784pf
C_C4 2 REF 0.4542957746944pf
C_C5 2 3 0.1193199445545pf
C_C6 3 REF 0.3576804706842pf
C_C7 3 4 0.0615304399167pf
C_C8 4 REF 0.3508861228885pf
L_L1 1 5 59.794140763633nh
R_RL1 5 2 7.6286209948531
L_L2 3 6 1.3207130105759nh
R_RL2 6 4 -7.637887934e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_12 1 2 3 4 REF
C_C1 1 REF 0.2707207207877pf
C_C2 1 2 24.724398194018pf
C_C3 1 4 0.3144989881405pf
C_C4 2 REF 0.4783713458183pf
C_C5 2 3 0.1276429477885pf
C_C6 3 REF 0.357715418162pf
C_C7 4 REF 0.3511705236149pf
L_L1 1 5 37.605045257419nh
R_RL1 5 2 4.0607413078571
L_L2 3 6 1.3210433471223nh
R_RL2 6 4 -7.044558481e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_13 1 2 3 4 REF
C_C1 1 REF 0.253951102849pf
C_C2 1 2 28.308028963549pf
C_C3 1 4 0.3544366234609pf
C_C4 2 REF 0.5161427053641pf
C_C5 2 3 0.1395437345841pf
C_C6 3 REF 0.3575418677546pf
C_C7 4 REF 0.3515317505026pf
L_L1 1 5 23.384833412397nh
R_RL1 5 2 2.2885125757307
L_L2 3 6 1.3208312268223nh
R_RL2 6 4 -5.868133849e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_14 1 2 3 4 REF
C_C1 1 REF 0.2216828898328pf
C_C2 1 2 33.374415876606pf
C_C3 1 4 0.4098844061884pf
C_C4 2 REF 0.5695445528566pf
C_C5 2 3 0.1569301334223pf
C_C6 3 REF 0.3571497848268pf
C_C7 4 REF 0.3519574427846pf
R_R1 1 2 -927.7412091596
L_L1 1 5 14.171192437989nh
R_RL1 5 2 1.6893138200867
L_L2 3 6 1.3204647205104nh
R_RL2 6 4 -4.145535149e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_15 1 2 3 4 REF
C_C1 1 REF 0.1663421238561pf
C_C2 1 2 41.09441116094pf
C_C3 1 4 0.4932254985999pf
C_C4 2 REF 0.6449426824627pf
C_C5 2 3 0.1840109218514pf
C_C6 3 REF 0.3565269238264pf
C_C7 4 REF 0.3524985578937pf
R_R1 1 2 -701.7614822731
L_L1 1 5 8.285603430349nh
R_RL1 5 2 3.034879917177
L_L2 3 6 1.3198321183134nh
R_RL2 6 4 -1.918926864e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_16 1 2 3 4 REF
C_C1 1 REF 0.0652696819826pf
C_C2 1 2 54.931422642137pf
C_C3 1 4 0.641372544969pf
C_C4 2 REF 0.7650737560489pf
C_C5 2 3 0.233118791978pf
C_C6 3 REF 0.3555918249134pf
C_C7 4 REF 0.3533752683223pf
R_R1 1 2 -490.0266795561
L_L1 1 5 4.700465912042nh
R_RL1 5 2 -0.409376785266
L_L2 3 6 1.3186832798513nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_17 1 2 3 4 REF
C_C1 1 2 84.412206282985pf
C_C2 1 4 0.9559338424136pf
C_C3 2 REF 0.9914247091098pf
C_C4 2 3 0.3381454314765pf
C_C5 3 REF 0.3541545842733pf
C_C6 4 REF 0.3552431126677pf
R_R1 1 2 -314.4910742716
L_L1 1 5 1.9310032209773nh
R_RL1 5 2 0.0766055004321
L_L2 1 6 81.879085931141nh
R_RL2 6 3 0.0264709471458
L_L3 1 7 81.11488061439nh
R_RL3 7 4 0.0267838899654
L_L4 2 8 81.934899834521nh
R_RL4 8 3 0.0061032895293
L_L5 2 9 81.17327552125nh
R_RL5 9 4 0.005881683302
L_L6 3 10 1.316275292025nh
R_RL6 10 4 3.4191948317e-5
Kn_K1 L_L1 L_L2 0.0745653623548
Kn_K2 L_L1 L_L3 0.0748126753778
Kn_K3 L_L1 L_L4 -0.07897723704
Kn_K4 L_L1 L_L5 -0.079449958485
Kn_K5 L_L2 L_L3 0.9919352952089
Kn_K6 L_L2 L_L4 0.9882122773845
Kn_K7 L_L2 L_L5 0.9800777965964
Kn_K8 L_L2 L_L6 -0.100201406853
Kn_K9 L_L3 L_L4 0.9801123530901
Kn_K10 L_L3 L_L5 0.9881014555463
Kn_K11 L_L3 L_L6 0.0267140971764
Kn_K12 L_L4 L_L5 0.9919408611523
Kn_K13 L_L4 L_L6 -0.100043006976
Kn_K14 L_L5 L_L6 0.0268293337435
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_18 1 2 3 4 REF
C_C1 1 2 171.92445933651pf
C_C2 1 4 1.8896079557438pf
C_C3 2 REF 1.6071244285994pf
C_C4 2 3 0.6496298144362pf
C_C5 3 REF 0.3512515722996pf
C_C6 4 REF 0.3611373590987pf
R_R1 1 2 -213.341510632
L_L1 1 5 90.906672181671nh
R_RL1 5 REF -0.994823200776
L_L2 1 6 0.6441370213121nh
R_RL2 6 2 0.0176241003995
L_L3 1 7 31.427518123052nh
R_RL3 7 3 0.0125483851186
L_L4 1 8 30.720409234821nh
R_RL4 8 4 0.0126275298766
L_L5 2 9 90.269226889369nh
R_RL5 9 REF -1.112432768178
L_L6 2 10 31.514859267994nh
R_RL6 10 3 0.0016943980733
L_L7 2 11 30.811403458537nh
R_RL7 11 4 0.0015473539676
L_L8 3 12 1.3092566932985nh
R_RL8 12 4 5.7689555617e-5
Kn_K1 L_L1 L_L2 0.0837393334041
Kn_K2 L_L1 L_L5 0.9964508545873
Kn_K3 L_L2 L_L3 0.0618759445361
Kn_K4 L_L2 L_L4 0.06217340283
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.081175422079
Kn_K7 L_L2 L_L7 -0.08250685166
Kn_K8 L_L3 L_L4 0.9789965904393
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9897671955018
Kn_K11 L_L3 L_L7 0.9686033610626
Kn_K12 L_L3 L_L8 -0.157170789887
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.968750384554
Kn_K15 L_L4 L_L7 0.9895327243667
Kn_K16 L_L4 L_L8 0.0474730584653
Kn_K17 L_L6 L_L7 0.9790558615059
Kn_K18 L_L6 L_L8 -0.156668491314
Kn_K19 L_L7 L_L8 0.047690487854
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_19 1 2 3 4 REF
C_C1 1 2 890.29991620023pf
C_C2 1 4 9.5625313902537pf
C_C3 2 REF 6.4764217988237pf
C_C4 2 3 3.2010021475244pf
C_C5 3 REF 0.3332177030453pf
C_C6 4 REF 0.412370628611pf
R_R1 1 REF -592.2743098017
R_R2 1 2 18.904765669651
R_R3 2 REF 584.23934824761
L_L1 1 5 10.314357663366nh
R_RL1 5 REF -0.033254706298
L_L2 1 6 0.0845986748694nh
R_RL2 6 2 -5.431161047e-3
L_L3 1 7 5.3599528443255nh
R_RL3 7 3 -1.664514636e-3
L_L4 1 8 4.7177120211911nh
R_RL4 8 4 -2.149583894e-3
L_L5 2 9 10.259272862726nh
R_RL5 9 REF -0.074368251903
L_L6 2 10 5.3791873444582nh
R_RL6 10 3 -6.850743972e-4
L_L7 2 11 4.7416555086848nh
R_RL7 11 4 -5.050259067e-4
L_L8 3 12 15.580226975313nh
R_RL8 12 REF -0.069246979498
L_L9 3 13 1.2529338013312nh
R_RL9 13 4 4.6174731058e-5
L_L10 4 14 14.930551782329nh
R_RL10 14 REF -0.071117279632
Kn_K1 L_L1 L_L2 0.074767380097
Kn_K2 L_L1 L_L5 0.9958915742028
Kn_K3 L_L1 L_L8 0.809932713473
Kn_K4 L_L1 L_L10 0.8270669014022
Kn_K5 L_L2 L_L3 0.0485341605005
Kn_K6 L_L2 L_L4 0.0480054405104
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.076960170851
Kn_K9 L_L2 L_L7 -0.085688333035
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8774558734356
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9921239890799
Kn_K15 L_L3 L_L7 0.8687548417586
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.365657671873
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8698654562727
Kn_K21 L_L4 L_L7 0.9910597994348
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1255923406457
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8091649943556
Kn_K26 L_L5 L_L10 0.826091614352
Kn_K27 L_L6 L_L7 0.8779461941738
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.36409640775
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1262408242116
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2153121793628
Kn_K35 L_L8 L_L10 0.9591521824733
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_20 1 2 3 4 REF
C_C1 1 REF 11.629545912663pf
C_C2 1 3 5.9698852988807pf
C_C3 2 4 17.821868663482pf
C_C4 3 REF 0.3937938195734pf
C_C5 4 REF 0.2274368580242pf
R_R1 1 REF 401.55177399002
R_R2 1 2 37.74801204736
R_R3 2 REF -403.2467475855
L_L1 1 5 4.5000541084845nh
R_RL1 5 REF -3.173558777e-3
L_L2 1 6 0.409158359254nh
R_RL2 6 2 -0.047262218395
L_L3 1 7 2.8850398660185nh
R_RL3 7 3 -0.027149450619
L_L4 1 8 2.3532065470075nh
R_RL4 8 4 -0.034422101001
L_L5 2 9 4.8888724153992nh
R_RL5 9 REF 0.121686260233
L_L6 2 10 2.7632033919991nh
R_RL6 10 3 -2.168846172e-3
L_L7 2 11 2.1539461390744nh
R_RL7 11 4 -6.937351092e-4
L_L8 3 12 7.3930699835871nh
R_RL8 12 REF 0.0833104733136
L_L9 3 13 1.1793431116949nh
R_RL9 13 4 -3.283580463e-4
L_L10 4 14 6.8713216133661nh
R_RL10 14 REF 0.0951586532975
Kn_K1 L_L1 L_L5 0.9572423604901
Kn_K2 L_L1 L_L8 0.7808743654083
Kn_K3 L_L1 L_L10 0.8108852047923
Kn_K4 L_L2 L_L3 0.2443648162043
Kn_K5 L_L2 L_L4 0.3100251083168
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.135109712801
Kn_K8 L_L2 L_L7 -0.111793118282
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0557287673123
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7788839879949
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9277759372989
Kn_K15 L_L3 L_L7 0.707610036472
Kn_K16 L_L3 L_L8 0.9752458805957
Kn_K17 L_L3 L_L9 -0.463840640118
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6765714053657
Kn_K21 L_L4 L_L7 0.9101100571301
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1943418058162
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0352345521089
Kn_K26 L_L5 L_L7 0.026424368129
Kn_K27 L_L5 L_L8 0.7916489917497
Kn_K28 L_L5 L_L9 -0.018222069722
Kn_K29 L_L5 L_L10 0.8287037494908
Kn_K30 L_L6 L_L7 0.7660603129978
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.495400915963
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1788433373774
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2880482082973
Kn_K38 L_L8 L_L10 0.9179368269422
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_21 1 2 3 4 REF
C_C1 1 2 331.70158441208pf
C_C2 1 4 3.584323505332pf
C_C3 2 REF 2.687616301027pf
C_C4 2 3 1.2224678709357pf
C_C5 3 REF 0.345733134278pf
C_C6 4 REF 0.3705051872881pf
R_R1 1 2 -23.40423870529
L_L1 1 5 21.813118452299nh
R_RL1 5 REF -0.2539171483
L_L2 1 6 0.1083805061198nh
R_RL2 6 2 0.0133194245389
L_L3 1 7 9.4991475242631nh
R_RL3 7 3 0.0104962612755
L_L4 1 8 8.8291558885363nh
R_RL4 8 4 0.010931894907
L_L5 2 9 21.627210077795nh
R_RL5 9 REF -0.346698928626
L_L6 2 10 9.5616059039338nh
R_RL6 10 3 3.6226941054e-4
L_L7 2 11 8.8992325114844nh
R_RL7 11 4 2.5441191803e-4
L_L8 3 12 31.134600211625nh
R_RL8 12 REF -0.336904472551
L_L9 3 13 1.2815859085287nh
R_RL9 13 4 4.3639165434e-5
L_L10 4 14 30.455422314371nh
R_RL10 14 REF -0.339105223639
Kn_K1 L_L1 L_L2 0.0956994388371
Kn_K2 L_L1 L_L5 0.9975142065532
Kn_K3 L_L1 L_L8 0.833613957259
Kn_K4 L_L1 L_L10 0.8426795976843
Kn_K5 L_L2 L_L3 0.0226294547994
Kn_K6 L_L2 L_L4 0.0195784194503
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.083910387647
Kn_K9 L_L2 L_L7 -0.090855671397
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010220576478
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9306981697278
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943192825197
Kn_K16 L_L3 L_L7 0.9245292407
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.279665979252
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9255690009659
Kn_K22 L_L4 L_L7 0.9938943772201
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0909075513641
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8324035231771
Kn_K27 L_L5 L_L10 0.84130655701
Kn_K28 L_L6 L_L7 0.9311777083756
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.277662922839
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0916768308282
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.155202880527
Kn_K36 L_L8 L_L10 0.9792512056216
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_22 1 2 3 4 REF
C_C1 1 2 65.948287049301pf
C_C2 1 4 0.7427203738144pf
C_C3 2 REF 0.8721117979566pf
C_C4 2 3 0.2788131130573pf
C_C5 3 REF 0.3518817323996pf
C_C6 4 REF 0.3505504295075pf
R_R1 1 2 -165.268981715
L_L1 1 5 0.4631203144655nh
R_RL1 5 2 0.1656137154642
L_L2 1 6 43.349882560736nh
R_RL2 6 3 0.0516443019427
L_L3 1 7 42.570707219479nh
R_RL3 7 4 0.0522166026692
L_L4 2 8 43.792329071855nh
R_RL4 8 3 0.0911546121836
L_L5 2 9 43.020615400839nh
R_RL5 9 4 0.0891948985348
L_L6 3 10 1.3087665818441nh
R_RL6 10 4 -2.774483585e-5
Kn_K1 L_L1 L_L4 -0.100541317301
Kn_K2 L_L1 L_L5 -0.102274911293
Kn_K3 L_L2 L_L3 0.9848082143047
Kn_K4 L_L2 L_L4 0.9946982864175
Kn_K5 L_L2 L_L5 0.97940577043
Kn_K6 L_L2 L_L6 -0.13860004062
Kn_K7 L_L3 L_L4 0.9796676852584
Kn_K8 L_L3 L_L5 0.9946029082185
Kn_K9 L_L3 L_L6 0.035475152126
Kn_K10 L_L4 L_L5 0.9849632094641
Kn_K11 L_L4 L_L6 -0.137405299152
Kn_K12 L_L5 L_L6 0.0357863719299
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_23 1 2 3 4 REF
C_C1 1 REF 0.2825749198422pf
C_C2 1 2 24.930069989053pf
C_C3 1 4 0.3046666379231pf
C_C4 2 REF 0.5913974038601pf
C_C5 2 3 0.1314635458387pf
C_C6 3 REF 0.3523131775088pf
C_C7 4 REF 0.346772719469pf
R_R1 1 2 -490.8795521022
L_L1 1 5 0.7980332671503nh
R_RL1 5 2 0.3144746841117
L_L2 3 6 1.3131533509603nh
R_RL2 6 4 -8.079336476e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_24 1 2 3 4 REF
C_C1 1 REF 0.3713239531762pf
C_C2 1 2 12.128730737423pf
C_C3 1 3 0.0432639110854pf
C_C4 1 4 0.1707330371901pf
C_C5 2 REF 0.5209789591437pf
C_C6 2 3 0.08296637932pf
C_C7 3 REF 0.3511561557351pf
C_C8 4 REF 0.3444057382999pf
L_L1 1 5 1.1904049763294nh
R_RL1 5 2 0.1051544224248
L_L2 3 6 1.3116359983932nh
R_RL2 6 4 -6.456678125e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_25 1 2 3 4 REF
C_C1 1 REF 0.4088172090712pf
C_C2 1 2 7.2716548344419pf
C_C3 1 3 0.0669278358026pf
C_C4 1 4 0.1190979808361pf
C_C5 2 REF 0.5033111812121pf
C_C6 2 3 0.0629209945477pf
C_C7 2 4 0.020242149057pf
C_C8 3 REF 0.349403364194pf
C_C9 4 REF 0.3420927160035pf
L_L1 1 5 1.7170199409371nh
R_RL1 5 2 2.0695879693e-4
L_L2 3 6 1.3093219719764nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_26 1 2 3 4 REF
C_C1 1 REF 0.4249565645301pf
C_C2 1 2 5.8075004037565pf
C_C3 1 3 0.0769133810271pf
C_C4 1 4 0.1018006300136pf
C_C5 2 REF 0.4994086283462pf
C_C6 2 3 0.0555446242113pf
C_C7 2 4 0.0402649064628pf
C_C8 3 REF 0.3482233177135pf
C_C9 4 REF 0.3406187906439pf
L_L1 1 5 1.8545051179766nh
R_RL1 5 2 1.025341217e-4
L_L2 3 6 1.3083070840794nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param49_26

